US09238631B2
c) Di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-(4-{[3-(tosyloxy)propyl]amino}-benzyl)-L-glutamate
To 230 mg (0.5 mmol) of di-tert-butyl (4S)-4-(4-aminobenzyl)-N-(tert-butoxycarbonyl)-L-glutamate in 12 mL N,N-dimethylformamide were added 138 mg (1.0 mmol) of potassium carbonate and 385 mg (1.0 mmol) of 1,3-propanediol di-p-toluenesulfonate (Aldrich) and the resulting suspension was heated for 1 h at 100° C. in a microwave oven. The reaction mixture was then filtered, the solvent evaporated and the residue was taken up in dichloromethane. The crude product obtained in this manner was chromatographed on a Biotage® SNAP cartridge KP-NH using a hexane/ethyl acetate gradient, and the appropriate fractions were combined and concentrated.

reactant | di-tert-butyl (4S)-4-(4-aminobenzyl)-N-(tert-butoxycarbonyl)-L-glutamate | 0.5 mmol, 230 mg | NC1=CC=C(C[C@@H](C[C@H](NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C=C1 | C25H40N2O6
reactant | potassium carbonate | 1.0 mmol, 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-propanediol di-p-toluenesulfonate | 1.0 mmol, 385 mg | C1(=CC=C(C=C1)S(=O)(=O)OCCCOS(=O)(=O)C1=CC=C(C=C1)C)C | C17H20O6S2
solvent | N,N-dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
product | Di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-(4-{[3-(tosyloxy)propyl]amino}-benzyl)-L-glutamate | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC1=CC=C(C=C1)NCCCOS(=O)(=O)C1=CC=C(C)C=C1)C(=O)OC(C)(C)C | C35H52N2O9S
